US04841077
To a solution of 5,7-diacetoxy-4'-methoxy-2-bromomethylisoflavone (500 mg) in 5 ml chloroform, was added 240 mg of 50% aqueous solution of dimethylamine at room temperature with stirring. After one hour, the solid which separated out was filtered off, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: chloroform). To the liquid thus obtained was added ethanolic solution of hydrogen chloride, the solvent was distilled off, and the solid which separated out was recrystallized from ethanol, giving 150 mg of 2-(dimethylaminomethyl)-5,7-dihydroxy-4'-methoxyisoflavone hydrochloride.

reactant | 5,7-diacetoxy-4'-methoxy-2-bromomethylisoflavone | 500 mg | C(C)(=O)OC1=C2C(C(=C(OC2=CC(=C1)OC(C)=O)CBr)C1=CC=C(C=C1)OC)=O | C21H17BrO7
reactant | dimethylamine | CNC | C2H7N
reactant | hydrogen chloride | Cl | ClH
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(dimethylaminomethyl)-5,7-dihydroxy-4'-methoxyisoflavone hydrochloride | 150 mg | Cl.CN(C)CC=1OC2=CC(=CC(=C2C(C1C1=CC=C(C=C1)OC)=O)O)O | InChI=1S/C19H19NO5.ClH/c1-20(2)10-16-17(11-4-6-13(24-3)7-5-11)19(23)18-14(22)8-12(21)9-15(18)25-16;/h4-9,21-22H,10H2,1-3H3;1H
